US08809554B2
N-[[(2S)-6-chloro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl]-N-[(1,1-dimethylethoxy)carbonyl]-sulfamide
To (6-chloro-2,3-dihydrobenzo[1,4]dioxin-2-yl)methanol (9.5 mg, 0.042 mmol), PPh3 (17 mg, 0.066 mmol) and N-(t-butoxycarbonyl)sulfamide (16 mg, 0.083 mmol) in Ethyl acetate (0.5 mL) was added diisopropyl azodicarboxylate (DIAD, 0.013 mL, 0.066 mmol) dropwise. The resulting mixture was stirred at room temperature for 2 h (monitored with TLC 40% ethyl acetate-heptane and LC-MS) and then concentrated to a residue. The residue loaded onto a 12 g ISCO silica column in CH2Cl2 and eluted with 0-30% ethyl acetate/heptane to yield the title compound as a gum, which was used in the next step without further purification.

reactant | (6-chloro-2,3-dihydrobenzo[1,4]dioxin-2-yl)methanol | 0.042 mmol, 9.5 mg | ClC1=CC2=C(OC(CO2)CO)C=C1 | C9H9ClO3
reactant | PPh3 | 0.066 mmol, 17 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-(t-butoxycarbonyl)sulfamide | 0.083 mmol, 16 mg | C(C)(C)(C)OC(=O)NS(=O)(=O)N | C5H12N2O4S
reactant | diisopropyl azodicarboxylate | 0.066 mmol, 0.013 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | Ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | N-[[(2S)-6-chloro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl]-N-[(1,1-dimethylethoxy)carbonyl]-sulfamide | ClC1=CC2=C(O[C@H](CO2)CN(S(=O)(=O)N)C(=O)OC(C)(C)C)C=C1 | C14H19ClN2O6S
